US09238667B2
Synthesis of (1S,2R)-ethyl 2-{4-(difluoromethoxy)benzoyl}aminocyclohexane-1-carboxylate
In a 120 ml pressure resistant vessel were charged ethyl 2-{4-(difluoromethoxy)benzoyl}aminocyclohexene-1-carboxylate <5.0 g, 14.7 mmol>, diacetato{(S)-2,2′-bis[bis(3,5-di-tert-butyl-4-methoxyphenyl)phosphino]-1,1′-binaphthyl}ruthenium (II) (0.125 g, 0.0886 mmol), 42% tetrafluoroboric acid (14.3 ml, 0.1772 mmol) and methanol (25 ml) and the mixture was stirred. Thereafter, hydrogen (1 MPa) was filled therein, and the mixture was stirred at 45° C. for 40 hr. After confirmation of the completion of hydrogen absorption, the ordinary pressure was restored, and the mixture was concentrated into a diastereomer/enantiomer mixture to give the title compound as white crystals. yield 5.0 g. NMR data of (1S,2R) form 1H NMR (CDCl3) δ1.27 (3H, t, J=7.1 Hz), 1.4-1.9 (7H, m), 2.1-2.3 (1H, m), 2.8-2.9 (1H, m), 4.1-4.4 (3H, m), 6.56 (1H, t, J=76.6 Hz), 7.15 (2H, d, J=8.7 Hz)

reactant | ethyl 2-{4-(difluoromethoxy)benzoyl}aminocyclohexene-1-carboxylate | 14.7 mmol, <5.0 g | FC(OC1=CC=C(C(=O)NC2=C(CCCC2)C(=O)OCC)C=C1)F | C17H19F2NO4
reactant | tetrafluoroboric acid | 0.1772 mmol, 14.3 ml | F[B-](F)(F)F.[H+]
reactant | hydrogen | [H][H] | H2
solvent | methanol | 25 ml | CO | CH4O
product | (1S,2R)-ethyl 2-{4-(difluoromethoxy)benzoyl}aminocyclohexane-1-carboxylate | FC(OC1=CC=C(C(=O)N[C@H]2[C@H](CCCC2)C(=O)OCC)C=C1)F | C17H21F2NO4
